US07723333B2
2-tert-Butyl-4-{[3-(3-methoxyphenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared as described for Example 12 from 3-methoxyphenol and 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate with a reaction time of 15 mins. The reaction mixture was evaporated and the crude product was purified by silica gel column chromatography (Horizons Biotage) using 15% EtOAc in petroleum ether 40-60° C. as eluent to give the title compound (0.070 g, 65%). 1H NMR (500 MHz CDCl3): δ 7.54-7.45 (m, 2H), 7.45 (m, 3H), 7.18 (t, 1H), 6.53 (dd, 1H), 6.48-6.42 (m, 2H), 5.79 (t, 1H), 3.89 (t, 2H), 3.82 (s, 3H), 3.12-3.06 (m, 2H), 1.86-1.82 (m, 2H), 1.75 (s, 9H); 13C NMR (125 MHz CDCl3): δ 161.1, 159.8, 159.7, 135.3, 131.8, 130.2, 129.7, 128.8, 125.3, 107.2, 107.1, 106.6, 101.2, 66.2, 61.7, 55.5, 42.6, 28.9, 27.8; Mass Spectrum M+H+ 445.

reactant | 3-methoxyphenol | COC=1C=C(C=CC1)O | C7H8O2
reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
product | 2-tert-Butyl-4-{[3-(3-methoxyphenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.070 g, 65% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC(=CC=C1)OC)C1=CC=CC=C1)(=O)=O | C23H28N2O5S
